US04261894
The process according to claim 1 in which the 3,1-benzoxazine is reacted with potassium cyanide in an equimolar ratio or in the presence of a slight excess of potassium cyanide at a temperature of 100° C., to decarboxylate said 3,1-benzoxazine and obtain a 2-imino-3-indolinone.

reactant | 3,1-benzoxazine | N=1COC=C2C1C=CC=C2 | C8H7NO
reactant | potassium cyanide | [C-]#N.[K+]
product | 2-imino-3-indolinone | N=C1NC2=CC=CC=C2C1=O | C8H6N2O
